US07642220B2
28. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methylaminopyrimidine-4-carboxylic acid (Compound 35)
2-(4-Chloro-2-fluoro-3-methoxyphenyl)-7-methyl-7H-purine-6-carboxylic acid methyl ester (200 mg, 0.57 mmol) was slurried in 2M sodium hydroxide (10 mL) and heated at reflux for 2 h. After cooling, the pH was adjusted to 4 with 1M HCl. The precipitated solid was dissolved by shaking the mixture with two portions of ethyl acetate (45 mL each). The combined organic phases were washed with brine, dried and evaporated to give the title compound (100 mg, 53% yield): 1HNMR (DMSO-d6) δ 7.62 (dd, 1H), 7.36 (dd, 1H), 7.05 (br s, 2H), 3.97 (m, 1H), 3.91 (s, 3H), 2.17 (s, 3H).

reactant | 2-(4-Chloro-2-fluoro-3-methoxyphenyl)-7-methyl-7H-purine-6-carboxylic acid methyl ester | 0.57 mmol, 200 mg | COC(=O)C1=C2N(C=NC2=NC(=N1)C1=C(C(=C(C=C1)Cl)OC)F)C | C15H12ClFN4O3
reactant | HCl | 1M | Cl | ClH
reactant | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium hydroxide | 2M, 10 mL | [OH-].[Na+]
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-methylaminopyrimidine-4-carboxylic acid | 100 mg, 53% yield | NC1=C(C(=NC(=N1)C1=C(C(=C(C=C1)Cl)OC)F)C(=O)O)NC | C13H12ClFN4O3
